US07358370B2
A mixture of 2,4-Difluoro-benzonitrile (1.39 g, 10 mmol), 3-amino-propane-1,2-diol (0.911 g, 10 mmol), and ethyl-diisopropyl-amine (1.74 mL) in DMSO (10 mL) was microwaved at 200° C. for 7 min. Then the reaction mixture was poured into a saturated NH4Cl aq. solution (100 mL), extracted with EtOAc (3×100 mL), dried over Na2SO4, filtered, concentrated. The crude mixture was purified by flash silica gel chromatography (EtOAc-Hexane 1:1) to give 2-(2,3-Dihydroxy-propylamino)-4-fluoro-benzonitrile (0.87 g, 41.4% yield). LCMS (m/z): M+H=211.

reactant | 2,4-Difluoro-benzonitrile | 10 mmol, 1.39 g | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | 3-amino-propane-1,2-diol | 10 mmol, 0.911 g | NCC(CO)O | C3H9NO2
reactant | ethyl-diisopropyl-amine | 1.74 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 2-(2,3-Dihydroxy-propylamino)-4-fluoro-benzonitrile | 0.87 g, 41.4% yield | OC(CNC1=C(C#N)C=CC(=C1)F)CO | C10H11FN2O2
